US09238640B2
To a suspension of 2-(2,6-dimethyl-pyridin-4-yl)-5,7-difluoro-3H-quinazolin-4-one (0.72 g, 2.51 mmol) in DMF (10 mL), a solution of sodium methoxide in methanol (25 wt %, 1.36 g, 25.1 mmol) was added and the reaction mixture was stirred at room temperature for 16 h. Water was added, the mixture was acidified to pH approximately 4-5 with acetic acid, and the precipitated solid was filtered and dried under vacuum to give 2-(2,6-dimethyl-pyridin-4-yl)-7-fluoro-5-methoxy-3H-quinazolin-4-one as a light yellow solid. Yield: 0.28 g (37%).

reactant | 2-(2,6-dimethyl-pyridin-4-yl)-5,7-difluoro-3H-quinazolin-4-one | 2.51 mmol, 0.72 g | CC1=NC(=CC(=C1)C1=NC2=CC(=CC(=C2C(N1)=O)F)F)C | C15H11F2N3O
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 25.1 mmol, 1.36 g | CO | CH4O
reactant | Water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(2,6-dimethyl-pyridin-4-yl)-7-fluoro-5-methoxy-3H-quinazolin-4-one | CC1=NC(=CC(=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)F)C | C16H14FN3O2
